### ISSUE TITLE
Prove that inversion is discontinuous at the center

### ISSUE THREAD

**Issue by urkud** [leanprover-community/mathlib4#5939]
- [ ] Prove `Tendsto (inversion c R) (𝓝[≠] c) cobounded` if `R ≠ 0`.
- [ ] Deduce that `inversion c R` is discontinuous at `c` if `R ≠ 0`
  and the vector space is nontrivial.
- [ ] Deduce that `fderiv (inversion c R) c` is zero, thus
  `fderiv (inversion c R) x =
    ((R / dist x c) ^ 2 • (reflection (ℝ ∙ (x - c))ᗮ : F →L[ℝ] F)) x`
  for all `x` (see #5937 for the case `x ≠ c`).

**Comment by SproutSeeds** [comment]
Hi all, I would like to take a careful one PR pass on this issue.

My proposed first scope is only the first checklist item, proving `Tendsto (inversion c R) (𝓝[≠] c) cobounded` under `R ≠ 0`.

Before I start, is this still a useful target right now, and is there any preferred statement shape or placement maintainers want?

If yes, I will keep the PR tightly scoped and iterate from review feedback.

**Comment by grunweg** [comment]
Here's a useful starting point for item 1, due to `ofcnash`:
```
-- presumably, some API for this exists already!
lemma aux' {c : P} : Filter.Tendsto (dist c) (𝓝[≠] c) (𝓝[>] 0) := sorry

open Filter in
/-- The inversion of a point tends to infinity as it approaches the center of an inversion. -/
theorem tendsto_inversion_nhdsNE_center_cobounded {c : P} {R : ℝ} (hR : R ≠ 0) :
    Tendsto (inversion c R) (𝓝[≠] c) (Bornology.cobounded P) := by
  have hdist_inv : (fun x : P ↦ dist c (inversion c R x)) = fun x ↦ (R ^ 2) * (dist c x)⁻¹ := by
    funext x
    simpa [div_eq_mul_inv] using (dist_center_inversion c x R)
  suffices Tendsto (fun x ↦ (dist c x)⁻¹) (𝓝[≠] c) atTop by
    rw [← tendsto_dist_left_atTop_iff c, hdist_inv]
    exact Tendsto.const_mul_atTop (sq_pos_iff.mpr hR) this
  apply tendsto_inv_nhdsGT_zero.comp
  have aux : Tendsto (dist c) (𝓝 c) (𝓝 0) := by
    rw [← dist_self c]
    exact (continuous_dist.comp (Continuous.prodMk_right c)).continuousAt
  exact aux'
```
